US04731368
2-Sulfamoyl-6-(2-hydroxyethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine
Into a solution of 2-sulfamoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine (1.74 g, 8.0 mmol) in methanol (25 ml) and acetonitrile (50 ml) was bubbled ethylene oxide gas for 10 minutes. The reaction vessel was stoppered and the mixture was stirred for 18 hours. The precipitated product was collected by filtration. The filtrates were concentrated to provide additional product (total weight, 2.02 g). This material was crystallized from acetonitrile to give 1.67 g (80% yield) of pure product; m.p. 184°-186° C.

reactant | 2-sulfamoyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 8.0 mmol, 1.74 g | S(N)(=O)(=O)C1=CC2=C(CNCC2)S1 | C7H10N2O2S2
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | methanol | 25 ml | CO | CH4O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 2-Sulfamoyl-6-(2-hydroxyethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 1.67 g, 80% yield | S(N)(=O)(=O)C1=CC2=C(CN(CC2)CCO)S1 | C9H14N2O3S2
